US06403601B1
(d) 2,3-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A mixture of 2,3-dimethoxy-1-naphthalenecarboxylic acid (2.21 g, 9.52 mmol) and 10% Pd/C (0.53 g) in HOAc (50 mL) was hydrogenated on a Parr apparatus at 60° C. and 50 psi for 11 h. After filtration through diatomaceous earth, the solvent was removed under reduced pressure, and water was added. The precipitate was filtered and washed with water to give the product as a white solid (1.62 g, 72%). 1H NMR (DMSO-d6) δ 12.99 (s, 1H), 6.77 (s,1H), 3.77 (s, 3H), 3.68 (s, 3H), 2.67 (s, 2H), 2.50 (s, 2H), 1.68 (m, 4H); MS m/z 235 (m−H).

reactant | 2,3-dimethoxy-1-naphthalenecarboxylic acid | 9.52 mmol, 2.21 g | COC1=C(C2=CC=CC=C2C=C1OC)C(=O)O | C13H12O4
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.53 g | [Pd] | Pd
product | 2,3-Dimethoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 1.62 g, 72% | COC1=C(C=2CCCCC2C=C1OC)C(=O)O | C13H16O4
